US07795236B2
4-(Pyridine-2-yl)benzonitrile
The title compound was prepared in a similar manner to that described in Reference Example 11 using 2-bromopyridine instead of 1-bromo-3-pentyloxybenzene and 4-cyanophenylboronic acid instead of tert-butyl N-[ 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-benzyl]carbamate.

reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-cyanophenylboronic acid | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4-(Pyridine-2-yl)benzonitrile | N1=C(C=CC=C1)C1=CC=C(C#N)C=C1 | C12H8N2
